US07829584B2
(6-chloro-3-cyano-pyridin-2-yl)-acetic Acid 4-nitro-phenyl Ester
Diisopropylcarbodiimide (3.00 mL, 19.2 mmol) was added dropwise over 2 min at 0° C. with stirring to a homogeneous dark amber solution of crude (6-chloro-3-cyano-pyridin-2-yl)-acetic acid (3.1 g, 16 mmol; mixture of regioisomers), as prepared in the previous step, p-nitrophenol (3.35 g, 24 mmol), DMAP (11 mg, 0.8 mmol) and DCM (20 mL). The ice bath was removed immediately following the completion of DIC addition, and the dark amber solution was stirred at rt overnight. The crude reaction was allowed to stand at rt for some time, and was then loaded directly onto a silica flash column (90 mm×6″). Elution with 97:3 toluene/acetone afforded the impure title compound, but as a single regioisomer (566 mg, 14% from 2,6-dichloro-nicotinonitrile).

reactant | Diisopropylcarbodiimide | 19.2 mmol, 3.00 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | (6-chloro-3-cyano-pyridin-2-yl)-acetic acid | 16 mmol, 3.1 g | ClC1=CC=C(C(=N1)CC(=O)O)C#N | C8H5ClN2O2
reactant | p-nitrophenol | 24 mmol, 3.35 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
catalyst | DMAP | 0.8 mmol, 11 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-3-cyano-pyridin-2-yl)-acetic Acid 4-nitro-phenyl Ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=NC(=CC=C1C#N)Cl)=O | C14H8ClN3O4
